US05236952
5.0 g of 4-hydroxy-5-methoxy-isophthalaldehyde are treated with 50 ml of constant-boiling hydrobromic acid and heated to boiling under reflux and while stirring under an argon atmosphere for 3 hours. After cooling 50 ml of ice-water are added thereto, and the separated precipitate is filtered under suction and washed with water. The crude product is taken up in ethyl acetate and filtered over 50 g of aluminum oxide (activity grade II). The crystalline material obtained is recrystallized from ethyl acetate/n-hexane. There is obtained 4,5-dihydroxyisophthalaldehyde in the form of slightly orange crystals of m.p. 201°-202°.

reactant | 4-hydroxy-5-methoxy-isophthalaldehyde | 5.0 g | OC1=C(C=C(C=O)C=C1OC)C=O | C9H8O4
reactant | hydrobromic acid | 50 ml | Br | BrH
product | 4,5-dihydroxyisophthalaldehyde | OC1=C(C=C(C=O)C=C1O)C=O | C8H6O4
